US07115545B1
At from 0 to 5° C., a solution of 209.0 g (1.1 mol) of titanium tetrachloride in 150 ml of methylene chloride was added dropwise to a solution of 50.1 g (0.275 mol) of methyl 2-hydroxy-4-methoxybenzoate and 88 g (0.725 mol) of dichloromethoxymethane in 400 ml of methylene chloride, and the mixture was stirred at room temperature overnight. The mixture was then stirred into ice-water and extracted with methylene chloride. The combined organic phases were washed with sodium bicarbonate solution, water and sodium chloride solution and dried, and the solvent was then removed. Silica gel chromatography using cyclohexane/ethyl acetate=1:1 gave 24.5 g (42%) of methyl 2-hydroxy-3-formyl-4-methoxybenzoate in the form of a colorless solid of m.p.: 123–1240° C.

reactant | methyl 2-hydroxy-4-methoxybenzoate | 0.275 mol, 50.1 g | OC1=C(C(=O)OC)C=CC(=C1)OC | C9H10O4
reactant | dichloromethoxymethane | 0.725 mol, 88 g | ClC(OC)Cl | C2H4Cl2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 1.1 mol, 209.0 g | [Ti](Cl)(Cl)(Cl)Cl
product | methyl 2-hydroxy-3-formyl-4-methoxybenzoate | 24.5 g, 42% | OC1=C(C(=O)OC)C=CC(=C1C=O)OC | C10H10O5
